US06680313B2
a) 7-(Pyridin-4-yl)thioimidazo[5,1-b]thiazole
A solution of 2.5 g of 7-iodoimidazo[5,1-b]thiazole in 40 ml of dry THF was cooled in ice. A 0.95 M ethylmagnesium bromide/THF solution (11.7 ml) was added to the cooled solution under an argon atmosphere. The mixture was stirred at that temperature for 40 min. 4,4′-Dipyridyl disulfide (3.3 g) was added thereto, and the mixture was stirred at room temperature for 18 hr. A saturated aqueous ammonium chloride solution was added to the reaction mixture, and the mixture was then extracted with ethyl acetate twice. The extract was washed with brine, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed by distillation. The residue was purified by column chromatography on silica gel (dichloromethane:methanol=30:1 to 20:1) and by column chromatography on Sephadex LH-20 (dichloromethane:methanol=1:1) to prepare 1.09 g of 7-(pyridin-4-yl)thioimidazo[5,1-b]thiazole.

reactant | 7-iodoimidazo[5,1-b]thiazole | 2.5 g | IC=1N=CN2C1SC=C2 | C5H3IN2S
reactant | ethylmagnesium bromide THF | 0.95 M, 11.7 ml | C(C)[Mg]Br.C1CCOC1
reactant | 4,4′-Dipyridyl disulfide | 3.3 g | C1=CN=CC=C1SSC2=CC=NC=C2 | C10H8N2S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | 40 ml | C1CCOC1 | C4H8O
product | 7-(Pyridin-4-yl)thioimidazo[5,1-b]thiazole | N1=CC=C(C=C1)SC=1N=CN2C1SC=C2 | C10H7N3S2
